US07022707B2
cis-2,6-Dimethyl-piperazine-1-carboxylic acid 4-chloro-benzyl ester hydrochloride
Prepared in analogy to Example 25 with cis-N-Boc-2,6-dimethyl-piperazine and 4-chloro-benzyl chloride. Colourless powder, 1H-NMR (d6-DMSO): 1.30 d 7.2 Hz, 6H; 3.0–3.25 m, 4H and 4.2–4.4 m, 2H; 5.11 s, 2H; 7.35–7.55 AB-system, 4H; 9.5 br, 2H. MS (ISP): 283.1 (M+H)+.

reactant | cis-N-Boc-2,6-dimethyl-piperazine | C(=O)(OC(C)(C)C)N1[C@H](CNC[C@H]1C)C | C11H22N2O2
reactant | 4-chloro-benzyl chloride | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
product | cis-2,6-Dimethyl-piperazine-1-carboxylic acid 4-chloro-benzyl ester hydrochloride | Cl.ClC1=CC=C(COC(=O)N2[C@H](CNC[C@H]2C)C)C=C1 | InChI=1S/C14H19ClN2O2.ClH/c1-10-7-16-8-11(2)17(10)14(18)19-9-12-3-5-13(15)6-4-12;/h3-6,10-11,16H,7-9H2,1-2H3;1H/t10-,11+;
